US06300496B1
5.26 Grams (45 mmols) of 6-hydroxyhexanal was charged to a 100 milliliter Schlenk flask and dissolved in 10 milliliters of deionized water by heating to 85-95° C. in a water bath. The resulting solution was charged to the Parr autoclave containing 0.484 grams of Na2S2O8 and 35 milliliters of NH4OH. The reactor was placed under 400 psi air, heated to 80° C. and a 500 psi air purge was established. The reaction was allowed to proceed for 3 hours. At that time, reaction conversion was virtually complete and 6-hydroxycaproamide was formed in 40% yield.

reactant | 6-hydroxyhexanal | 45 mmols | OCCCCCC=O | C6H12O2
reactant | Na2S2O8 | 0.484 grams | [O-]S(=O)(=O)OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | NH4OH | 35 milliliters | [NH4+].[OH-]
solvent | water | 10 milliliters | O | H2O
product | 6-hydroxycaproamide | 40% yield | OCCCCCC(=O)N | C6H13NO2
